US09290526B2
To a mixture of acetyltrimethylsilane (1.0 g, 8.6 mmol), malononitrile (625 mg, 9.46 mmol) and ammonium acetate (126 mg, 1.64 mmol), acetic acid (394 μL, 6.88 mmol) and benzene (30 mL) were added. The reaction flask was attached to a Dean-Stark trap filled with benzene and the solution was heated to 95° C. for 3 h. The orange reaction mixture was cooled, diluted with EtOAc, washed with saturated aqueous NaHCO3 and brine, dried over anhydrous MgSO4, and concentrated. The residue was purified by column chromatography on silica gel (using a solvent gradient from 1% to 30% EtOAc in hexanes) to give 2-(1-(trimethylsilyl)ethylidene) malononitrile as colorless oil (1.13 g, 79.8%).

reactant | acetyltrimethylsilane | 8.6 mmol, 1.0 g | C(C)(=O)[Si](C)(C)C | C5H12OSi
reactant | malononitrile | 9.46 mmol, 625 mg | C(CC#N)#N | C3H2N2
reactant | ammonium acetate | 1.64 mmol, 126 mg | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 6.88 mmol, 394 μL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 2-(1-(trimethylsilyl)ethylidene) malononitrile | 1.13 g, 79.8% | C[Si](C(C)=C(C#N)C#N)(C)C | C8H12N2Si
